US04367238
An aqueous solution (30 ml) of potassium hydroxide (8.2 g) was added portionwise to a mixture of 2-hydroxy-5-(2-chlorophenoxy)benzaldehyde (10.4 g) and dimethyl sulfate (10.5 g) with stirring at room temperature, and the mixture was stirred at 70° C. for an hour. After cooling, the reaction mixture was extracted with diethyl ether, and the extract was washed with water, dried and evaporated. The residue was crystallized from methanol to give 2-methoxy-5-(2-chlorophenoxy)benzaldehyde (8 g). mp 65°-66° C.

reactant | 2-hydroxy-5-(2-chlorophenoxy)benzaldehyde | 10.4 g | OC1=C(C=O)C=C(C=C1)OC1=C(C=CC=C1)Cl | C13H9ClO3
reactant | dimethyl sulfate | 10.5 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | potassium hydroxide | 30 ml, 8.2 g | [OH-].[K+]
product | 2-methoxy-5-(2-chlorophenoxy)benzaldehyde | 8 g | COC1=C(C=O)C=C(C=C1)OC1=C(C=CC=C1)Cl | C14H11ClO3
